US04772600
2-(4-Chlorophenyl)-N-methyl-N-(2-propenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and dry tetrahydroduran (100 ml) was stirred at room temperature for 2 hours with nitrogen bubbling through it. A solution formed. A solution of N-allylmethylamine (3.71 g, 0.0522 mole) in tetrahydrofuran (5.0 ml) was added and the reaction mixture was stirred at 40°-50° C. overnight under nitrogen. The solvents were removed under reduced pressure and the residue was triturated in water (100 ml). The solid was collected by filtration, rinsed once with water, twice with 5% potassium hydroxide solution, and twice again with water. The solid was recrystallized from hot isopropyl ether, collected by filtration, rinsed with isopropyl ether, and dried under high vacuum to give 2.01 g (34%) of title compound, mp 124°-127° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-allylmethylamine | 0.0522 mole, 3.71 g | C(C=C)CN | C4H9N
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-methyl-N-(2-propenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 2.01 g, 34% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N(CC=C)C | C18H17ClN4O
